US06337344B1
[4-({[1-(3-Amidino-benzyl)-4-benzyloxy-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-trimethyl-ammonium iodide hydroiodide
This compound was prepared from 4-benzyloxy-1-(3-thiocarbamoyl-benzyl)-1H-indole-2-carboxylic acid 4-(dimethylamino)-benzylamide (342 mg, 0.62 mmol), acetone (15 ml), methyl iodide (0.98 ml, 15 mmol), acetic acid (0.4 m, 0.7 mmol), ammonium acetate (809 mg, 10 mmol), and methanol (7 ml) as described in example 1/5 but the solvent for the methylation was pure acetone. The crude material was purified by flash chromatography on RP18 material with ethanol/water/acetic acid 1:1:0.1 to give 374 mg of the desired compound (80 %). M.p. 158° C. (dec.). MS: 546.2 (M+).

reactant | 4-benzyloxy-1-(3-thiocarbamoyl-benzyl)-1H-indole-2-carboxylic acid 4-(dimethylamino)-benzylamide | 0.62 mmol, 342 mg | CN(C1=CC=C(CNC(=O)C=2N(C3=CC=CC(=C3C2)OCC2=CC=CC=C2)CC2=CC(=CC=C2)C(N)=S)C=C1)C | C33H32N4O2S
reactant | methyl iodide | 15 mmol, 0.98 ml | CI | CH3I
reactant | acetic acid | 0.7 mmol | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 10 mmol, 809 mg | C(C)(=O)[O-].[NH4+]
solvent | acetone | CC(=O)C | C3H6O
solvent | methanol | 7 ml | CO | CH4O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | [4-({[1-(3-Amidino-benzyl)-4-benzyloxy-1H-indole-2-carbonyl]-amino}-methyl)-phenyl]-trimethyl-ammonium iodide hydroiodide | 374 mg, 80 % | I.[I-].C(N)(=N)C=1C=C(CN2C(=CC3=C(C=CC=C23)OCC2=CC=CC=C2)C(=O)NCC2=CC=C(C=C2)[N+](C)(C)C)C=CC1 | InChI=1S/C34H35N5O2.2HI/c1-39(2,3)28-17-15-24(16-18-28)21-37-34(40)31-20-29-30(38(31)22-26-11-7-12-27(19-26)33(35)36)13-8-14-32(29)41-23-25-9-5-4-6-10-25;;/h4-20H,21-23H2,1-3H3,(H3-,35,36,37,40);2*1H
